US09303041B2
N-[2-Methyl-10-(4-methyl-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulen-7-ylmethyl]-succinamic acid
To a suspension of N-[2-methyl-10-(4-methyl-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulen-7-ylmethyl]-succinamic acid methyl ester, prepared as described in the previous step, (80 mg, 0.18 mmol) in THF (1.5 mL) was added LiOH (14 mg) in water (0.5 mL). The solution was stirred at room temperature for 3 h, acidified with dilute HCl, and concentrated to dryness. LC-MS: m/z 442 (M+1 of the parent).

reactant | N-[2-methyl-10-(4-methyl-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulen-7-ylmethyl]-succinamic acid methyl ester | COC(CCC(=O)NCC1=CC2=C(NC=3SC(=CC3C(=N2)N2CCN(CC2)C)C)C=C1)=O | C23H29N5O3S
reactant | LiOH | 14 mg | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | N-[2-Methyl-10-(4-methyl-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulen-7-ylmethyl]-succinamic acid | CC1=CC=2C(=NC3=C(NC2S1)C=CC(=C3)CNC(CCC(=O)O)=O)N3CCN(CC3)C | C22H27N5O3S
